US09079853B2
3-((1-benzoyl-1H-indol-3-yl)methyl)-3-hydroxy-5-methyl-1-propylindolin-2-one
This compound was made in a method analogous to 3-((1H-indol-3-yl)methyl)-5-chloro-2-oxo-1-propylindolin-3-yl benzoate using 5-methyl-2-oxo-1-propylindolin-3-yl benzoate and (1-benzoyl-1H-indol-3-yl)methyl benzoate. 1H-NMR δ 8.33 (d, 1H), 7.53 (m, 2H), 7.45-7.39 (m, 4H), 7.31 (dd, 1H), 7.29 (m, 1H), 7.17 (s, 1H), 7.08 (d, 1H), 6.59 (m, 2H), 3.53 (m, 1H), 3.40 (d, 1H), 3.29 (d, 1H), 3.20 (m, 1H), 2.77 (s, OH), 2.30 (s, 3H), 1.15 (m, 2H), 0.56 (t, 3H). Calculated mass for C28H26N2O3, 438.19. Observed 461.2 (M+Na).

reactant | 3-((1H-indol-3-yl)methyl)-5-chloro-2-oxo-1-propylindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)Cl)CCC)=O)CC1=CNC2=CC=CC=C12 | C27H23ClN2O3
reactant | 5-methyl-2-oxo-1-propylindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CCC)=O | C19H19NO3
reactant | (1-benzoyl-1H-indol-3-yl)methyl benzoate | C(C1=CC=CC=C1)(=O)OCC1=CN(C2=CC=CC=C12)C(C1=CC=CC=C1)=O | C23H17NO3
product | 3-((1-benzoyl-1H-indol-3-yl)methyl)-3-hydroxy-5-methyl-1-propylindolin-2-one | C(C1=CC=CC=C1)(=O)N1C=C(C2=CC=CC=C12)CC1(C(N(C2=CC=C(C=C12)C)CCC)=O)O | C28H26N2O3
